US07291631B2
Using General Procedure A: Reaction of (S)-(3,5-dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine in CH3CN with 2-Bromomethyl-5-cyano-benzoic acid methyl ester, DIPEA and KI gave 5-cyano-2-{[(3,5-dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8yl)amino]-methyl}-benzoic acid methyl ester as a red oil. 1H NMR (CDCl3) δ 1.76 (m, 1H), 2.06 (m, 2H), 2.16 (s, 3H), 2.27 (s, 3H), 2.28 (m, 1H), 2.75 (m, 2H), 3.86 (m, 2H), 3.90 (s, 3H), 4.15 (m, 1H), 4.29 (m, 2H), 6.99 (d, 2H, J=15.8 Hz), 7.35 (d, 1H, J=6.6 Hz), 7.46 (d, 1H, J=7.9 Hz), 7.88 (s, 1H), 8.01 (s, 2H), 8.51 (s, 1H).

reactant | (S)-(3,5-dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | CC=1C(=NC=C(C1)C)CN[C@H]1CCCC=2C=CC=NC12 | C17H21N3
reactant | 2-Bromomethyl-5-cyano-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C#N)CBr)=O | C10H8BrNO2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | CC#N | C2H3N
product | 5-cyano-2-{[(3,5-dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8yl)amino]-methyl}-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C#N)CN(C1CCCC=2C=CC=NC12)CC1=NC=C(C=C1C)C)=O | C27H28N4O2
